US06680317B2
N-[4-Chloro-2-hydroxy-3[N″,N″-dimethylaminosulfonyl]phenyl]-N′-(2,3-dichlorophenyl)thiourea
A solution of N,N-dimethyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide (356 mg, 1.42 mmol) and 2,3-dichlorophenylisothiocyanate (318 mg, 1.57 mmol) in 1.0 mL of N,N-dimethylformamide was stirred at room temperature for 3 hours. Purification by column chromatography on silica gel, eluting with ethyl acetate/hexane (30/70, v/v) to give the desired product (440 mg, 68%). EI-MS (m/z) 455.5 (M+).

reactant | N,N-dimethyl-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 1.42 mmol, 356 mg | CN(S(=O)(=O)C1=C(C(=CC=C1Cl)N)O)C | C8H11ClN2O3S
reactant | 2,3-dichlorophenylisothiocyanate | 1.57 mmol, 318 mg | ClC1=C(C=CC=C1Cl)N=C=S | C7H3Cl2NS
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | N-[4-Chloro-2-hydroxy-3[N″,N″-dimethylaminosulfonyl]phenyl]-N′-(2,3-dichlorophenyl)thiourea | 440 mg, 68% | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C(=CC=C1)Cl)Cl)O)S(=O)(=O)N(C)C | C15H14Cl3N3O3S2
